US07795262B2
Step 2. Preparation of 2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride
A mixture of 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine (98 mg, 0.38 mmol) and 1-chloroethyl chloroformate (0.05 mL, 0.46 mmol) in ClCH2CH2Cl (10 mL) is refluxed for 3 hr. The solvent is removed and the residue is dissolved in MeOH (10 mL) and the mixture is reflux for 30 min. Solvent is removed in vacuo and the residue is stirred with ether (10 mL) for 30 min at rt and filtered. The resulting light brown solid is used in the next step without further purification. MS (M+1): 169.1.

reactant | 6-benzyl-2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine | 0.38 mmol, 98 mg | C(C1=CC=CC=C1)N1CC=2C=CC(=NC2CC1)Cl | C15H15ClN2
reactant | 1-chloroethyl chloroformate | 0.46 mmol, 0.05 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | ClCH2CH2Cl | 10 mL | C(CCl)Cl | C2H4Cl2
product | 2-chloro-5,6,7,8-tetrahydro-1,6-naphthyridine hydrochloride | Cl.ClC1=NC=2CCNCC2C=C1 | InChI=1S/C8H9ClN2.ClH/c9-8-2-1-6-5-10-4-3-7(6)11-8;/h1-2,10H,3-5H2;1H
